US05187189
1-[[2-(4-morpholinyl)ethyl]sulfinyl]-4-nitrobenzene
A cold (0° C.) solution of 1-[[(4-morpholinyl)ethyl]thio]-4-nitrobenzene in methanol is treated slowly with excess 30% sulfuric acid and then sodium perborate tetrahydrate (10 equivalents) is added. The mixture is stirred at 0° C. for 2 hrs and then at ambient temperature for 2 hrs. The methanol is removed in vacuo and the residue basified with 50% sodium hydroxide solution and filtered. The filter cake is washed with methylene chloride and the aqueous filtrate extracted with the methylene chloride washings. The combined extract is washed with water, dried, and concentrated to obtain the product.

reactant | 1-[[(4-morpholinyl)ethyl]thio]-4-nitrobenzene | N1(CCOCC1)CCSC1=CC=C(C=C1)[N+](=O)[O-] | C12H16N2O3S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium perborate tetrahydrate | 10 equivalents | B1(OO1)[O-].O.O.O.O.[Na+]
solvent | methanol | CO | CH4O
product | 1-[[2-(4-morpholinyl)ethyl]sulfinyl]-4-nitrobenzene | N1(CCOCC1)CCS(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H16N2O4S
